US08357717B2
Stage 1: tert-Butyl 8-(9-(pyridin-4-yl)-3,9-diazaspiro[5.5]undecane-3-carbonyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate
3-(Pyridin-4-yl)-3,9-diazaspiro[5.5]undecane dihydrochloride (F-09) (0.49 g, 1.62 mmol) was dissolved in DMF and triethylamine (0.45 g, 3.25 mmol), and 2-(tert-butoxycarbonyl)-1,2,3,4-tetrahydroisoquinoline-8-carboxylic acid (0.45 g, 1.62 mmol) (available commercially from Ennova, for example) was added, followed by benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (0.93 g, 2.11 mmol) and 4-methylmorpholine (0.53 g, 4.87 mmol). The reaction mixture was stirred for 15 h at RT, and then the solvent was removed in vacuo. The residue was taken up in ethyl acetate and sat. sodium hydrogen carbonate solution, and the phases were separated. The aqueous phase was extracted with ethyl acetate, and the combined organic phases were washed with sat. sodium hydrogen carbonate solution and sat. sodium chloride solution, dried over magnesium sulfate and concentrated in vacuo. The crude product was purified by column chromatography (silica gel, ethyl acetate/methanol 20:1+ammonia solution (25% aq.)). Yield: 0.78 g (98%).

reactant | 3-(Pyridin-4-yl)-3,9-diazaspiro[5.5]undecane dihydrochloride | 1.62 mmol, 0.49 g | Cl.Cl.N1=CC=C(C=C1)N1CCC2(CC1)CCNCC2
reactant | triethylamine | 3.25 mmol, 0.45 g | C(C)N(CC)CC | C6H15N
reactant | 2-(tert-butoxycarbonyl)-1,2,3,4-tetrahydroisoquinoline-8-carboxylic acid | 1.62 mmol, 0.45 g | C(C)(C)(C)OC(=O)N1CC2=C(C=CC=C2CC1)C(=O)O | C15H19NO4
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 2.11 mmol, 0.93 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 4-methylmorpholine | 4.87 mmol, 0.53 g | CN1CCOCC1 | C5H11NO
solvent | DMF | CN(C)C=O | C3H7NO
product | tert-Butyl 8-(9-(pyridin-4-yl)-3,9-diazaspiro[5.5]undecane-3-carbonyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate | N1=CC=C(C=C1)N1CCC2(CCN(CC2)C(=O)C=2C=CC=C3CCN(CC23)C(=O)OC(C)(C)C)CC1 | C29H38N4O3
